US07375236B2
3,4-Diethoxy-2-fluoro-6-(hydroxymethyl)benzonitrile (4.50 kg, 18.81 mol) and 1,2-dimethoxyethane (45 L) were loaded into a reaction vessel, followed by stirring. The reaction solution was cooled, and the system was placed under nitrogen atmosphere. At an internal temperature of 8.4° C., triethylamine (2.47 kg, 24.45 mol) was added. Furthermore, methanesulfonyl chloride (2.59 kg, 22.61 mol) was added dropwise without warming the internal temperature over 20° C. After stirring for 34 minutes, the system was placed under a stream of nitrogen gas, and the cooling was stopped. Toluene (45 L) and 0.5 N hydrochloric acid (9 L) were added, and the solution was separated. The obtained organic layer was washed with water (18 L), 10% aqueous sodium hydrogen carbonate solution (18 L), 10% brine (18 L), and water (18 L), and the organic layer was concentrated under reduced pressure. After adding toluene (45 L) to the concentrated solution, this was concentrated again under reduced pressure. The concentrated solution was cooled and diluted with toluene (40 L), and the diluted solution from the reaction vessel was equally divided into two containers. The walls of the reaction vessel were rinsed with toluene (5 L). This rinsing solution was divided in half and mixed with the aforementioned diluted solutions to give toluene solutions of 2-cyano-4,5-diethoxy-3-fluorobenzyl methanesulfonate. They were named solution A and solution B, and after measuring the weight of the solutions (solution A; 32.16 kg, solution B: 32.24 kg), the solutions were sampled and quantified by HPLC.

reactant | 3,4-Diethoxy-2-fluoro-6-(hydroxymethyl)benzonitrile | 18.81 mol, 4.50 kg | C(C)OC=1C(=C(C#N)C(=CC1OCC)CO)F | C12H14FNO3
reactant | triethylamine | 24.45 mol, 2.47 kg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 22.61 mol, 2.59 kg | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 0.5 N, 9 L | Cl | ClH
solvent | Toluene | 45 L | C1(=CC=CC=C1)C | C7H8
solvent | 1,2-dimethoxyethane | 45 L | COCCOC | C4H10O2
product | 2-cyano-4,5-diethoxy-3-fluorobenzyl methanesulfonate | CS(=O)(=O)OCC1=C(C(=C(C(=C1)OCC)OCC)F)C#N | C13H16FNO5S
